US04381401
Preparation of Ethyl(2-(phenylamino)ethyl)carbamate
A mixture of aniline hydrochloride (8.7 g, 66.9 mmole), N-carboethoxy-2-oxazolidinone (10.1 g, 63.5 mmole) and 25 ml of 2-(2-methoxyethoxy)ethanol was heated to 160° C. Gas evolution began occurring at 140° C. and continued for 3 hours. The dark homogenous reaction solution was allowed to cool to ambient temperature and worked up according to the procedure described in Example 1. Distillation at 170° C. (0.5 mm) gave a 26 percent yield of a clear oil which slowly solidified on standing.

reactant | aniline hydrochloride | 66.9 mmole, 8.7 g | Cl.NC1=CC=CC=C1
reactant | N-carboethoxy-2-oxazolidinone | 63.5 mmole, 10.1 g | C(=O)(OCC)N1C(OCC1)=O | C6H9NO4
reactant | 2-(2-methoxyethoxy)ethanol | 25 ml | COCCOCCO | C5H12O3
product | Ethyl(2-(phenylamino)ethyl)carbamate | 26 percent yield | C(C)OC(NCCNC1=CC=CC=C1)=O | C11H16N2O2
